US05670503
To a solution of 2-acetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (59 mg) in tetrahydrofuran was added borane-tetrahydrofuran complex (1.0M solution in tetrahydrofuran, 1 ml) dropwise. The solution was stirred at ambient temperature for 5 hours and to the solution was added dropwise 1N-hydrochloric acid (3 ml). The solution was stirred at 80° C. for 20 minutes and the tetrahydrofuran was evaporated. Then, the aqueous solution was neutralized with an aqueous saturated sodium bicarbonate solution and the separated oil was extracted with dichloromethane. The extract was dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from ethyl acetate to give 2-ethyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (30 ml).

reactant | 2-acetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 59 mg | C(C)(=O)N1NC=2N(CC1)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H16FN5O
reactant | borane tetrahydrofuran | 1.0M, 1 ml | B.O1CCCC1
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-ethyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 30 ml | C(C)N1NC=2N(CC1)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H18FN5
